Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Aspirin / Adhesive Tape / Percocet / Erythromycin Base / Bee 
Sting Kit / Adhesive Bandages / Caffeine
 
Attending: ___
 
___ Complaint:
Progressive bilateral knee pain with activity
 
Major Surgical or Invasive Procedure:
Bilateral total knee replacements

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of 
osteoarthritis and bilateral knee pain with activity.  She 
presents for definitive treatment.
 
Past Medical History:
1. Hypertension 
2. Hypothyroidism, status post partial thyroidectomy for 
multinodular goiter 
3. Arthritis 
4. Spinal stenosis 
5. Chronic low back pain 
6. Mitral valve prolapse 
7. Irritable bowel syndrome
8. Cerebral Aneurysm

 
Social History:
___
Family History:
Positive for breast cancer in the patient's mother. Brother and 
father both status post CABG. Brother with type ___ diabetes.

 
Physical Exam:
On discharge: 

Afebrile, All vital signs stable
General: Alert and oriented, No acute distress
Extremities: bilateral lower
Weight bearing: full weight bearing
Incision: intact, no swelling/erythema/drainage
Dressing: clean/dry/intact
Extensor/flexor hallicus longus intact  
Sensation intact to light touch  
Neurovascular intact distally  
Capillary refill brisk  
2+ pulses 

 
Pertinent Results:
___ 12:30PM   GLUCOSE-140* UREA N-19 CREAT-0.8 SODIUM-141 
POTASSIUM-3.4 CHLORIDE-106 TOTAL CO2-26 ANION GAP-12
___ 12:30PM   estGFR-Using this
___ 12:30PM   WBC-22.2*# RBC-3.42* HGB-10.2* HCT-30.5* 
MCV-89 MCH-29.8 MCHC-33.4 RDW-14.0
___ 12:30PM   PLT COUNT-248
___ 06:05AM BLOOD WBC-11.1* RBC-3.02* Hgb-9.0* Hct-27.0* 
MCV-89 MCH-29.8 MCHC-33.3 RDW-14.3 Plt ___
___ 09:40PM BLOOD WBC-12.9* RBC-2.83* Hgb-8.4* Hct-24.7* 
MCV-87 MCH-29.6 MCHC-33.9 RDW-15.0 Plt ___
___ 07:30AM BLOOD WBC-12.6* RBC-2.87* Hgb-8.4* Hct-25.0* 
MCV-87 MCH-29.4 MCHC-33.8 RDW-14.8 Plt ___
___ 06:00AM BLOOD Hct-24.3*
___ 04:50PM BLOOD Hct-24.5*
___ 10:50AM BLOOD Hct-24.6*
___ 10:45PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:45PM URINE Blood-NEG Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-SM 
 
Brief Hospital Course:
Ms. ___ was admitted to ___ on ___ for an elective 
bilateral total knee replacement. Pre-operatively, she was 
consented, prepped, and brought to the operating room. 
Intra-operatively, she was closely monitored and remained 
hemodynamically stable. She tolerated the procedure well without 
any complication. Post-operatively, she was transferred to the 
PACU and floor for further recovery. On the floor, she remained 
hemodynamically stable with her pain was controlled. She was 
transfused with 3 units packed cells, with discharge HCT 24.6. 
Being treated for UTI. Culture pending. She progressed with 
physical therapy to improve her strength and mobility. She was 
discharged in stable condition.
 
Medications on Admission:
Verapamil
Avapro
Levoxyl
Neurontin
Tramadol
Lysine
Vit-B complex
Glucosamine condroitin 
 
Discharge Medications:
1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
4. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO BID (2 times a day) as needed for Constipation.  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.  
6. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
7. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
9. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
10. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
11. Irbesartan 150 mg Tablet Sig: One (1) Tablet PO qd ().  
12. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Verapamil 120 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
14. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous 
DAILY (Daily) for 3 weeks.
Disp:*qs * Refills:*0*
15. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*

1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
4. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for Constipation.  
5. Multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
8. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day).  
10. Irbesartan 150 mg Tablet Sig: One (1) Tablet PO qd ().  
11. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Verapamil 120 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
13. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous 
DAILY (Daily) for 3 weeks.
Disp:*qs * Refills:*0*
14. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
15. Tramadol 50 mg Tablet Sig: ___ Tablets PO TID (3 times a 
day) as needed for pain: do not take with dilaudid. . Tablet(s) 
16. Ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 3 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Osteoarthritis
Postoperative anemia
UTI

 
Discharge Condition:
Stable

 
Discharge Instructions:
If you experience any chest pain, shortness of breath, new 
redness, increased swelling, pain, or drainage, or have a 
temperature >101, please call your doctor or go to the emergency 
room for evaluation. 

You may bear weight on both legs.  Please use your 
crutches/walker for ambulation. 

Please resume all of the medications you took prior to your 
hospital admission. Take all medication as prescribed by your 
doctor.

You have been prescribed a narcotic pain medication.  Please 
take only as directed and do not drive or operate any machinery 
while taking this medication.  There is a 72 hour ___ 
through ___, 9am to 4pm) response time for prescription refil 
requests.  There will be no prescription refils on ___, 
___, or holidays.  Please plan accordingly.    

Continue your Lovenox injections as prescribed to help prevent 
blood clots.  Please finish all of this medication. 

Feel free to call our office with any questions or concerns.
Physical Therapy:
Activity:  Activity as tolerated
 Right lower extremity:  Full weight bearing
 Left lower extremity:  Full weight bearing
Treatments Frequency:
Keep your incision/dressing clean and dry. Apply a dry sterile 
dressing daily as needed for drainage or comfort. Keep your knee 
dry for 5 days after your surgery. 

Your skin staples may be removed 2 weeks after your surgery or 
at the time of your follow up visit. 

 
Followup Instructions:
___